US07199154B2
N,N-diethyl-2-({(2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[5-(nitrooxy)pentyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoyl}oxy)ethanaminium chloride
To a solution of (2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[5-(nitrooxy)pentyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoic acid (1 eq, 0.2M) in DMF was added 2-bromo-N,N-diethylethanaminium bromide (1 eq) and K2CO3 (2 eq). The reaction was stirred at rt for 12 h and saturated aqueous NH4Cl was added. The mixture was extracted with EtOAc and the combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel eluted with 100% EtOAc and concentrated. The neutral amine was dissolved in Et2O and an excess of 2M HCl in Et2O was added. The mixture was stirred for 2 h and concentrated. The residue was dissolved in water and freeze dried to give the titled compound. 1H NMR (acetone-d6, 500 M Hz): δ 7.76 (d, 2H), 7.44 (d, 2H), 7.21–7.13 (m, 5H), 5.41 (s, 2H), 4.78–4.74 (m, 2H), 4.53 (t, 2H), 4.08 (t, 2H), 3.44–3.40 (m, 2H), 3.04 (s, 3H), 3.04–3.0 (m, 4H), 1.76–1.71 (m, 2H), 1.65–1.60 (m, 2H), 1.45–1.40 (m, 2H), 1.22 (t, 6H).

reactant | (2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[5-(nitrooxy)pentyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoic acid | 0.2M, 1 eq | CS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)O)\C1=CC=CC=C1)/COC(=O)OCCCCCO[N+](=O)[O-] | C23H25NO10S
reactant | 2-bromo-N,N-diethylethanaminium bromide | 1 eq | [Br-].BrCC[NH+](CC)CC
reactant | K2CO3 | 2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | N,N-diethyl-2-({(2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[5-(nitrooxy)pentyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoyl}oxy)ethanaminium chloride | [Cl-].C(C)[NH+](CCOC(\C(=C(/COC(=O)OCCCCCO[N+](=O)[O-])\C1=CC=C(C=C1)S(=O)(=O)C)\C1=CC=CC=C1)=O)CC | InChI=1S/C29H38N2O10S.ClH/c1-4-30(5-2)18-21-38-28(32)27(24-12-8-6-9-13-24)26(23-14-16-25(17-15-23)42(3,36)37)22-40-29(33)39-19-10-7-11-20-41-31(34)35;/h6,8-9,12-17H,4-5,7,10-11,18-22H2,1-3H3;1H/b27-26+;
